US08049016B2
Preparation of 1-(4-fluorobenzyl)-4-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-1H-1,2,4-triazol-5(4H)-one
To a solution of ethyl 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate (2.26 g, 6.23 mmol) in anhydrous tetrahydrofuran (60.0 mL) was added lithium aluminium hydride (0.35 g, 9.33 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 4 h, then quenched with 10% aqueous hydrochloric acid solution (3 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was triturated with ether to the title compound: mp 164-166° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.64 (s, 1H), 7.30 (dd, J=8.7, 8.7 Hz, 2H), 7.15 (dd, J=8.7, 8.7 Hz, 2H), 4.96 (s, 2H), 4.57 (s, 2H), 2.22 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 163.7, 160.5, 150.2 (d, 3JC-F=12 Hz), 143.2, 132.8 (d, 3JC-F=11 Hz), 132.5, 130.7, 130.4 (d, 3JC-F=33 Hz), 116.9 (d, 3JC-F=86 Hz), 55.3, 48.1, 15.1; MS (ES+) m/z 321.2 (M+1).

reactant | ethyl 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | 6.23 mmol, 2.26 g | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)OCC)C=C1 | C16H15FN4O3S
reactant | lithium aluminium hydride | 9.33 mmol, 0.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60.0 mL | O1CCCC1 | C4H8O
product | 1-(4-fluorobenzyl)-4-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-1H-1,2,4-triazol-5(4H)-one | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)CO)C=C1 | C14H13FN4O2S
